US07704995B2
3-{5-Amino-6-[(3-fluorophenyl)carbonyl]pyrazin-2-yl}-N-(phenylmethyl)benzamide:
3-Fluorophenylmagnesium bromide (1.5 mL of a 0.5 M solution in TBF, 0.75 mmol) was added dropwise to a THF (10 mL) solution of 3-amino-6-{3-[(benzylamino)carbonyl]phenyl}-N-methoxy-N-methylpyrazine-2-carboxamide (0.10 g, 0.25 mmol) at 0° C. under N2. The reaction mixture was warmed to room temperature and stirred for 2 h. The mixture was diluted with water and extracted 3× with ethyl acetate. The combined organic layers were dried with magnesium sulfate, filtered, and concentrated under reduced pressure to give a yellow oil. The crude product was separated by preparative HPLC and lyophilized to give a yellow solid (4 mg, 4% yield). 1H NMR (400 MHz, d6-DMSO): δ 9.10 (t, 1H), 9.05 (s, 1H), 8.42 (bs, 1H), 8.01 (m, 2H), 7.86-7.80 (m, 2H), 7.74 (d, 1H), 7.57-7.51 (m, 2H), 7.47-7.43 (m, 2H), 7.38-7.32 (m, 2H), 7.28-7.24 (m, 2H), 6.47-6.59 (m, 1H), 4.50 (d, 2H). MS (EI) for C25H19FN4O2: 427 (MH+).

reactant | 3-Fluorophenylmagnesium bromide | FC=1C=C(C=CC1)[Mg]Br
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 3-amino-6-{3-[(benzylamino)carbonyl]phenyl}-N-methoxy-N-methylpyrazine-2-carboxamide | 0.25 mmol, 0.10 g | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)NCC1=CC=CC=C1)C(=O)N(C)OC | C21H21N5O3
solvent | water | O | H2O
product | 3-{5-Amino-6-[(3-fluorophenyl)carbonyl]pyrazin-2-yl}-N-(phenylmethyl)benzamide | 4 mg, 4% yield | NC=1N=CC(=NC1C(=O)C1=CC(=CC=C1)F)C=1C=C(C(=O)NCC2=CC=CC=C2)C=CC1 | C25H19FN4O2
